US06608216B2
10-{[tert-butyl(dimethyl)silyl]oxyl-}-2,2,4-trimethyl-1,2-dihydro-5H-chromeno[3,4-f]quinolin-5-one
10-hydroxy-2,2,4-trimethyl-1,2-dihydro-5H-chromeno[3,4-f]quinolin-5-one (HCl salt) (131.6 g), prepared as described in WO99/41256, in THF (2.6L) in a 5L 4-necked flask fitted with N2 inlet, temperature probe and overhead stirrer was treated with t-BuOK in approximately 20 g portions over 15 minutes (103.4 g total) at 0° C. under a N2 atmosphere. The cooled reaction mixture was stirred for 30 minutes. The mixture was treated with TBSCl in approximately 20 g portions over 15 minutes. The reaction was monitored by TLC, EtOAc:heptane (2:3), and/or HPLC, Zorbax Rx-C8 4.6 mm×25 cm column; mobile phase 90% H2O (0.1% H3PO4): 10% CH3CN (0.1% H3PO4) to 30:70 over 15 minutes, then to 10:90 over 20 minutes before ramping back to 10:90 over 2 minutes; 45 minute run; flow rate of 1 mL/minute; UV detection at 225 nm. Retention times: starting material—17.6 minutes; product—29.9 minutes, until starting material was consumed, about 30 minutes. The reaction mixture was quenched with 50% NH4Cl solution (1L) and extracted with EtOAc (1L). The organic layer was washed with brine (500 mL) before concentrating to a crude solid (180.8 g). The crude solid was slurried in CH3CN (900 mL) with heating until an even suspension was obtained. The suspension was then cooled to approximately 0° C., filtered and washed with cold CH3CN. The wet cake was dried at 40° C. in a vacuum oven to yield 82.2 g of the title compound as a yellow solid. The mother liquors were concentrated to a solid (69 g) and re-slurried in CH3CN (250 mL). A second crop was collected and dried to yield an additional 11.8 g (81% combined yield). A small sample was crystallized from CH3CN. Anal. calcd for C25H31NO3Si: C, 71.22; H, 7.41; N, 3.32. Found: C, 68.38; H, 7.45; N, 3.16; 1H NMR (CDCl3) δ0.32 (6H, s), 1.05 (9H, s), 1.33 (6H, s), 2.12 (3H, s), 4.26 (1H, br), 6.75 (1H, d), 6.94˜6.97 (2H, m), 7.17 (1H, t), 8.75 (1H, d); 13C NMR (CDCl3)δ−3.9, 18.4, 21.2, 25.9, 28.3, 50.4, 77.2, 110.1, 111.3, 115.4, 118.2, 120.0, 124.2, 126.9, 126.9, 127.3, 131.7, 132.0, 144.9, 151.9, 153.2, 160.1 with 3 peaks overlapping; HRMS-FAB: calcd m/z 422.2151, found 422.2137.

reactant | 10-hydroxy-2,2,4-trimethyl-1,2-dihydro-5H-chromeno[3,4-f]quinolin-5-one | 131.6 g | OC=1C2=C(C=CC1)OC(C1=C3C(=CC(NC3=CC=C12)(C)C)C)=O | C19H17NO3
reactant | t-BuOK | CC(C)(C)[O-].[K+]
reactant | TBSCl | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | THF | 2.6L | C1CCOC1 | C4H8O
solvent | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | 10-{[tert-butyl(dimethyl)silyl]oxyl-}-2,2,4-trimethyl-1,2-dihydro-5H-chromeno[3,4-f]quinolin-5-one | 82.2 g | [Si](C)(C)(C(C)(C)C)OC=1C2=C(C=CC1)OC(C1=C3C(=CC(NC3=CC=C12)(C)C)C)=O | C25H31NO3Si
